2189-10-24 12:50:00 Physician Attending Progress Note
Chief Complaint: Anemia-Secondary to Blood Loss
   GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with 2 units PRBC given
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2189-10-24**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96.1
   HR: 69 (66 - 81) bpm
   BP: 118/53(69) {101/38(54) - 147/76(90)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
           Total In:
                                                                    700 mL
                                                                    625 mL
   PO:
           TF:
   IVF:
   250 mL
   Blood products:
   375 mL
   Total out:
                                                                    900 mL
                                                                  1,575 mL
   Urine:
                                                                    900 mL
                                                                  1,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -950 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), mild JVD
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, MIld distention
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   333 K/uL
   117 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.5 mEq/L
   46 mg/dL
   102 mEq/L
   140 mEq/L
   25.3 %
   9.1 K/uL
         [image002.jpg]
                             [**2189-10-23**]  11:37 PM
                             [**2189-10-24**]  04:07 AM
   WBC
   10.4
   9.1
   Hct
   27.6
   25.3
   Plt
   348
   333
   Cr
   1.4
   1.3
   Glucose
   100
   117
   Other labs: PT / PTT / INR:23.0/31.1/2.2, CK / CKMB / Troponin-T:42/4/,
   ALT / AST:91/76, Alk Phos / T Bili:98/3.0, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Imaging: CT-Dilated RA, echogenic liver suggestiong volume overload.
   CXR-bilateral peri-hilar infiltrates
   ECG: No changes
   Assessment and Plan
   79 yo female with h/o CAD who [**8-20**] had EDG with Gastric and Duodenal
   Ulcers now returns with evidence of dyspnea and fatigue with
   significant anemia seen on admission.  Interesting she had evidence of
   volume overload suggested by PCP exam and on CT scan completed.
   Anemia-Secondary to blood loss
   -HCT q 8 hours today
   -Will transfuse for acute decrease
   GI Bleed-
   -PPI [**Hospital1 **]
   -Gi for endoscopy when volume status optimized
   Fatigue-
   -Will have to follow with stability of anemia
   HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   -Will have to pursue careful negative balance in the setting of
   stabilization of GI bleed.
   ICU Care
   Nutrition: po diet per GI
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-10-23**] 09:30 PM
   20 Gauge - [**2189-10-23**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Plan discussed in detail with patient and
   family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2189-10-25 10:08:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No active bleeding seen in past 24 hours
   Has had good tolerance of negative fluid balance
   24 Hour Events:
 ULTRASOUND - At [**2189-10-24**] 02:30 PM
   RUQ
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-10-25**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-10-25**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 81 (66 - 86) bpm
   BP: 117/47(62) {97/33(47) - 129/59(78)} mmHg
   RR: 23 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                    905 mL
                                                                    110 mL
   PO:
                                                                    240 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    290 mL
                                                                     10 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,425 mL
                                                                    200 mL
   Urine:
                                                                  2,425 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,520 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   295 K/uL
   98 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.4 mEq/L
   34 mg/dL
   104 mEq/L
   138 mEq/L
   28.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2189-10-23**]  11:37 PM
                             [**2189-10-24**]  04:07 AM
                             [**2189-10-24**]  01:49 PM
                             [**2189-10-25**]  03:54 AM
   WBC
   10.4
   9.1
   9.5
   9.6
   Hct
   27.6
   25.3
   30.3
   28.4
   Plt
   348
   333
   326
   295
   Cr
   1.4
   1.3
   1.1
   Glucose
   100
   117
   98
   Other labs: PT / PTT / INR:22.3/32.4/2.1, CK / CKMB / Troponin-T:42/4/,
   ALT / AST:88/72, Alk Phos / T Bili:97/1.4, Albumin:3.2 g/dL, LDH:238
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   79 yo female admit with GIB, no evidence of current bleeding and has
   actually tolerated diuresis to date.  Concern if for ulcer source of
   bleeding and follow up EGD is planned.
   1)Anemia Secondary to Blood Loss-
   -HCT to [**Hospital1 **]
   -Consider transfusion for significant decline to <21
   2)Altered LFT's--This is in the setting of regular EtOH use and we have
   seen an ultrasound of the RUQ without obstruction or GB involvement.
   No further increase seen in enzyme levels
   -Follow trend
   3)GIB-
   -GI for endoscopy on Monday
   4)CHF-
   -Conintued negative fluid balance with GIB controlled
 ANEMIA, OTHER
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-10-23**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition : To Floor
   Total time spent: 35